US06358945B1
A solution of N-acetyl dimethyl oxindole (500 mg, 2.5 mmol) in 3 N sulfuric acid solution (7 mL) and THF (7 mL) was refluxed for 4 h. After cooling to room temperature, the reaction mixture was diluted with ether. The ethereal layer was washed with water and brine. dried (magnesium sulfate), filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluent: 30% EtOAc in hexanes) to give dimethyl oxindole as a red solid (228 mg, 57%).

reactant | N-acetyl dimethyl oxindole | 2.5 mmol, 500 mg | C(C)(=O)N1C(C(C2=CC=CC=C12)(C)C)=O | C12H13NO2
solvent | sulfuric acid | 3 N, 7 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | dimethyl oxindole | 228 mg, 57% | CC1(C(NC2=CC=CC=C12)=O)C | C10H11NO
